US09255096B1
Ethyl 4-oxopiperidine-3-carboxylate
To a solution of ethyl 1-benzyl-4-oxopiperidine-3-carboxylate (360.0 g, 1.21 mol) in EtOH (6.7 L) was added wet Pd/C (55.0 g) under N2 that then was replaced by H2. The reaction mixture was stirred at rt for 4 h, filtered and concentrated to give a crude product. The crude product was slurried with EtOH (200 mL) for 2 h and then filtered. The filtered cake was washed with MTBE and the combined organic phases were concentrated to give the title compound (222.0 g, 1.07 mol, 88.4%).

reactant | ethyl 1-benzyl-4-oxopiperidine-3-carboxylate | 1.21 mol, 360.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OCC | C15H19NO3
solvent | EtOH | 6.7 L | CCO | C2H6O
catalyst | Pd/C | 55.0 g | [Pd] | Pd
solvent | EtOH | 200 mL | CCO | C2H6O
product | Ethyl 4-oxopiperidine-3-carboxylate | 1.07 mol, 222.0 g, 88.4% | O=C1C(CNCC1)C(=O)OCC | C8H13NO3
